US09301951B2
Intermediate 4.1b: N-(3-(trifluoromethyl)benzyl)-2-(2-nitro-5-(piperidin-1-yl)phenyl)-isonicotinamide
Into a 50-mL round bottom flask, was placed a solution of 2-(2-nitro-5-(piperidin-1-yl)phenyl)isonicotinic acid (1 g, 3.06 mmol, 1.00 equiv) in dichloromethane (20 mL), EDC.HCl (970 mg, 5.05 mmol, 1.65 equiv), 4-dimethylaminopyridine (620 mg, 5.08 mmol, 1.66 equiv), and (3-(trifluoromethyl)phenyl)methanamine (590 mg, 3.37 mmol, 1.10 equiv). The resulting solution was stirred overnight at 25° C. in an oil bath. The reaction progress was monitored by LCMS. The mixture was concentrated under vacuum. The residue was applied onto a silica gel column and eluted with petroleum ether/ethyl acetate (10:1˜3:1). This resulted in 800 mg (51%) of N-(3-(trifluoromethyl)benzyl)-2-(2-nitro-5-(piperidin-1-yl)phenyl)isonicotinamide as a yellow solid.

reactant | 2-(2-nitro-5-(piperidin-1-yl)phenyl)isonicotinic acid | 3.06 mmol, 1 g, 1.00 equiv | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCCCC1)C=1C=C(C(=O)O)C=CN1 | C17H17N3O4
reactant | EDC.HCl | 5.05 mmol, 970 mg, 1.65 equiv | CCN=C=NCCCN(C)C.Cl
reactant | (3-(trifluoromethyl)phenyl)methanamine | 3.37 mmol, 590 mg, 1.10 equiv | FC(C=1C=C(C=CC1)CN)(F)F | C8H8F3N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 5.08 mmol, 620 mg, 1.66 equiv | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(3-(trifluoromethyl)benzyl)-2-(2-nitro-5-(piperidin-1-yl)phenyl)-isonicotinamide | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)[N+](=O)[O-])=O)C=CC1)(F)F | C25H23F3N4O3
